US04029787
3-Dimethylsulfamoyl-4-(4-methylpiperazine-1-yl)-benzoic acid-benzylester-hydrochloride
40 Grams of 3-dimethylsulfamoyl-4-(4-methylpiperazine-1-yl)-benzoylchloride-hydrochloride (0.1 mole) were dissolved in 0.5 l of benzyl alcohol. 50 Milliliters of triethylamine were added dropwise to the solution, while stirring at room temperature. The mixture was then heated for 10 minutes on the steam bath and was subsequently evaporated in vacuo.

reactant | 3-dimethylsulfamoyl-4-(4-methylpiperazine-1-yl)-benzoylchloride-hydrochloride | 0.1 mole | Cl.CN(S(=O)(=O)C=1C=C(C(=O)Cl)C=CC1N1CCN(CC1)C)C
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | benzyl alcohol | 0.5 l | C(C1=CC=CC=C1)O | C7H8O
product | 3-Dimethylsulfamoyl-4-(4-methylpiperazine-1-yl)-benzoic acid-benzylester-hydrochloride | Cl.C(C1=CC=CC=C1)OC(C1=CC(=C(C=C1)N1CCN(CC1)C)S(N(C)C)(=O)=O)=O | InChI=1S/C21H27N3O4S.ClH/c1-22(2)29(26,27)20-15-18(21(25)28-16-17-7-5-4-6-8-17)9-10-19(20)24-13-11-23(3)12-14-24;/h4-10,15H,11-14,16H2,1-3H3;1H
